US04623658
Propyl N-[[[4-[2-chloro-4-(trifluoromethyl)phenoxy]phenyl]amino]thio]-N-methylcarbamate (1)
A solution of 3.7 g of N-chlorosulphenyl-N-methylcarbamate in 10 ml of dry methylene chloride was added over 20 minutes to a stirred solution of 6.3 g of 4-[2-chloro-4-(trifluoromethyl)phenoxy]aniline in 25 ml of the same solvent containing 2.5 g of triethylamine. The reaction mixture temperature was kept at 0°-5° C. by means of an ice bath until the addition was completed, and was then allowed to rise to ambient temperature over 2.0 hours. The solvent was removed under reduced pressure and the residue was suspended in 200 ml of diethyl ether and washed three times with water. The resulting ether solution was dried (MgSO4) and the solvent was evaporated. The residue was purified by rapid chromatography on silica gel using methylene chloride as eluent. Crystallisation from diethyl ether/light petroleum gave 1, as pale buff-coloured crystals (m.p.: 61°-64° C.).

reactant | N-chlorosulphenyl-N-methylcarbamate | 3.7 g | ClSN(C([O-])=O)C
reactant | 4-[2-chloro-4-(trifluoromethyl)phenoxy]aniline | 6.3 g | ClC1=C(OC2=CC=C(N)C=C2)C=CC(=C1)C(F)(F)F | C13H9ClF3NO
reactant | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Propyl N-[[[4-[2-chloro-4-(trifluoromethyl)phenoxy]phenyl]amino]thio]-N-methylcarbamate | ClC1=C(OC2=CC=C(C=C2)NSN(C(OCCC)=O)C)C=CC(=C1)C(F)(F)F | C18H18ClF3N2O3S
